US05580986
5-Amino-1-(3-bromo-4,5,6,7-tetrahydropyrazolo-[1,5-a]-pyridin-2-yl)-4-nitropyrazole
3.6 g (12.7 mmol) 5-Amino-1-(3-bromo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)pyrazole was suspended in 15 ml acetic acid and treated with 1.23 ml (13.0 mmol) acetic anhydride. The mixture was stirred for 5 hours at room temperature. 1.5 ml (15.9 mmol) acetic anhydride was added and then, with ice-bath cooling, 0.66 ml (15.5 mmol) fuming nitric acid was added, dropwise. After stirring for 12 hours at room temperature, the mixture was concentrated. The residue was dissolved in 30 ml ethanol and treated with 11.2 ml concentrated hydrochloric acid. After heating for 3 hours under reflux, the mixture was concentrated and the residue taken up in water and ethyl acetate. It was made basic with 2N aqueous sodium hydroxide and the organic phase separated. The aqueous phase was extracted twice with ethyl acetate. The combined organic phases were washed once with water and once with saturated aqueous sodium chloride. The organic phase was dried and concentrated. The residue was recrystallised from ethyl acetate.

reactant | 5-Amino-1-(3-bromo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)pyrazole | 12.7 mmol, 3.6 g | NC1=CC=NN1C1=NN2C(CCCC2)=C1Br | C10H12BrN5
reactant | acetic anhydride | 13.0 mmol, 1.23 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 15.9 mmol, 1.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 5-Amino-1-(3-bromo-4,5,6,7-tetrahydropyrazolo-[1,5-a]-pyridin-2-yl)-4-nitropyrazole | NC1=C(C=NN1C1=NN2C(CCCC2)=C1Br)[N+](=O)[O-] | C10H11BrN6O2
